US07504401B2
An oven-dried flask was charged with (±)-BINAP (1.05 g, 1.68 mmol), Pd2(dba)3 CHCl3-complex (580 mg, 0.56 mmol) and then flushed with argon. Degassed toluene (28 mL) was added and the solution was stirred for 10 min. The catalyst solution was added to a mixture of 3,5-dibromo-1-benzyloxybenzene (38.3 g, 112 mmol), 3-aminopyridine (5.27 g, 56.0 mmol) and sodium tert-butoxide (7.54 g, 78.4 mmol) in degassed toluene (250 mL) and the mixture was heated to 80-90° C. for 24 h (conversion not complete). The reaction mixture was cooled to room temperature and brine (500 mL) was added. The mixture was extracted with ethyl acetate (500 mL) and the layers were separated. The organic layer was washed with brine (2×300 mL), dried (Na2SO4) and concentrated to give the crude product. FC (SiO2, AcOEt/heptane 2:1) gave 8.06 g (41%) of (3-benzyloxy-5-bromo-phenyl)-pyridin-3-yl-amine as yellow solid. 3,5-Dibromo-1-benzyloxybenzene was recovered, repurified and reused.

reactant | 3,5-dibromo-1-benzyloxybenzene | 112 mmol, 38.3 g | BrC=1C=C(C=C(C1)Br)OCC1=CC=CC=C1 | C13H10Br2O
reactant | 3-aminopyridine | 56.0 mmol, 5.27 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium tert-butoxide | 78.4 mmol, 7.54 g | CC(C)([O-])C.[Na+]
reactant | AcOEt heptane | CCOC(=O)C.CCCCCCC
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 500 mL | [Cl-].[Na+].O
catalyst | Pd2(dba)3 CHCl3 | 0.56 mmol, 580 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (3-benzyloxy-5-bromo-phenyl)-pyridin-3-yl-amine | 8.06 g, 41% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)Br)NC=1C=NC=CC1 | C18H15BrN2O
